US04110455
1-keto-2-cyanomethyl-6-(o-chlorophenyl)-8-chloro-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine
20 grams of 1-keto-6-(o-chlorophenyl)-8-chloro-1,3-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine were dissolved in 100 ml. of dimethyl formamide, 1.8 grams of sodium hydride (about 80%) added with cooling, further stirred for 5 minutes, then 5 grams of chloroacetonitrile added (the temperature increased from 30° C. to about 50° C.) and stirring continued for 30 minutes. Then it was poured into about 1 liter of water, shaken with chloroform, the chloroform paste washed with dilute aqueous sodium hydroxide and subsequently with water, dried, suction filtered over a silica gel layer and evaporated. The chloroform residue crystallized upon triturating with methanol and was recrystallized from methanol. M.P. 198°-200° C.; Yield 8 grams.

reactant | 1-keto-6-(o-chlorophenyl)-8-chloro-1,3-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine | 20 grams | O=C1NNC2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)N=C(C=C1)Cl | C15H11Cl2N5O
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | 1.8 grams | [H-].[Na+]
reactant | chloroacetonitrile | 5 grams | ClCC#N | C2H2ClN
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | about 1 liter | O | H2O
product | 1-keto-2-cyanomethyl-6-(o-chlorophenyl)-8-chloro-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine | O=C1N(N=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)N=C(C=C1)Cl)CC#N | C17H10Cl2N6O
